US06319380B1
The application gives the manufacture of styryl glycidyl ether by first synthesizing 4-(2,3-epoxypropoxy)benzaldehyde from 4-hydroxy benzaldehyde and epichlorohydrin in the presence of NaOH, tetra-n-butyl ammonium iodide and dimethylsulfoxide. 4-(2,3-epoxypropoxy)benzaldehyde was then added to a dry tetrahydrofuran solution (0° C., argon atmosphere) containing suspended methyl-triphosphonium bromide, catalytic amounts of 18-crown-6-ether and potassium t-butoxide. From this mixture styryl glycidyl ether was then obtained in a yield of 70%.

reactant | 4-(2,3-epoxypropoxy)benzaldehyde | O1C(COC2=CC=C(C=O)C=C2)C1 | C10H10O3
reactant | 4-hydroxy benzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | 18-crown-6-ether | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
catalyst | tetra-n-butyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | styryl glycidyl ether | yield of 70% | C(C1CO1)OC=CC1=CC=CC=C1 | C11H12O2
